US09399798B2
A mixture of (S)-1-(5-methoxy-2-nitrophenyl)-2,2-dimethyl-1-propyl(1S)-camphanate (590 mg, 1.4 mmol) and K2CO3 (389 mg, 2.8 mmol) in methanol (MeOH, 25 mL) was heated to reflux for one hour, then cooled down, concentrated in vacuo, and diluted with CH2Cl2 (50 mL). The organic phase was washed with brine (50 mL), dried over Na2SO4, concentrated in vacuo, and the residue was purified by silica gel column chromatography to yield enantiopure (S)-1-(5-methoxy-2-nitrophenyl)-2,2-dimethyl-1-propanol (333 mg, 99%). 1H NMR was identical with that of the racemic alcohol.

reactant | (S)-1-(5-methoxy-2-nitrophenyl)-2,2-dimethyl-1-propyl(1S)-camphanate | 1.4 mmol, 590 mg | [C@]12(C(CC(CC1)C2(C)C)C(=O)O[C@@H](C(C)(C)C)C2=C(C=CC(=C2)OC)[N+](=O)[O-])C | C23H33NO5
reactant | K2CO3 | 2.8 mmol, 389 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 25 mL | CO | CH4O
product | (S)-1-(5-methoxy-2-nitrophenyl)-2,2-dimethyl-1-propanol | 333 mg, 99% | COC=1C=CC(=C(C1)[C@H](C(C)(C)C)O)[N+](=O)[O-] | C12H17NO4
